US05856466
4-Benzoyl-2'-O-nonylcytidine
The mixture of 2'-O-nonylcytidine and 3'-O-nonylcytidine (11.5 g) is converted to N4-benzoyl-2'-O-nonylcytidine as per the procedure of Example 71, Step 2.

reactant | 2'-O-nonylcytidine | C(CCCCCCCC)O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C=C1 | C18H31N3O5
reactant | 3'-O-nonylcytidine | 11.5 g | C(CCCCCCCC)O[C@H]1[C@H]([C@@H](O[C@@H]1CO)N1C(=O)N=C(N)C=C1)O | C18H31N3O5
reactant | N4-benzoyl-2'-O-nonylcytidine | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2[C@H](OCCCCCCCCC)[C@H](O)[C@@H](CO)O2)C=C1)=O | C25H35N3O6
product | 4-Benzoyl-2'-O-nonylcytidine | C(C1=CC=CC=C1)(=O)C1(NC(N([C@H]2[C@H](OCCCCCCCCC)[C@H](O)[C@@H](CO)O2)C=C1)=O)N | C25H37N3O6
